US09376441B2
Into the solution of 2-amino-4-bromophenyl acetate (2.3 g) in THF (50 mL) was added 1M solution of MeMgBr in THF (50 mL) at 0° C. Then the reaction mixture was warmed to rt., and stirred for another 2 h. The reaction was quenched by saturated NH4Cl water solution, and extracted with ethyl acetate and washed with brine, after being dried, the solvent was removed to provide 2.3 g crude of 2-(2-amino-4-bromophenyl)propan-2-ol. This product was used in the next step reaction without any purification. LCMS [M+H]+: 231.86. 1H NMR (400 MHz, Chloroform-d) δ 7.26 (s, 1H), 6.95 (d, J=8.1 Hz, 2H), 6.81-6.73 (m, 3H), 1.64 (s, 6H).

reactant | 2-amino-4-bromophenyl acetate | 2.3 g | C(C)(=O)OC1=C(C=C(C=C1)Br)N | C8H8BrNO2
reactant | MeMgBr | C[Mg+].[Br-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(2-amino-4-bromophenyl)propan-2-ol | NC1=C(C=CC(=C1)Br)C(C)(C)O | C9H12BrNO
